US08420670B2
[8-(2-Aminoethoxy)-2-methylquinolin-4-yl]-(2,4-dichlorobenzyl)-amine
Preparation was made using a similar procedure as described in example 20. Starting materials were [2-(4-chloro-2-methylquinoline-8-yloxy)-ethyl]-carbamate tert-butyl ester and 2,4-dichlorobenzylamine.

reactant | [2-(4-chloro-2-methylquinoline-8-yloxy)-ethyl]-carbamate tert-butyl ester | C(C)(C)(C)OC(NCCOC=1C=CC=C2C(=CC(=NC12)C)Cl)=O | C17H21ClN2O3
reactant | 2,4-dichlorobenzylamine | ClC1=C(CN)C=CC(=C1)Cl | C7H7Cl2N
product | [8-(2-Aminoethoxy)-2-methylquinolin-4-yl]-(2,4-dichlorobenzyl)-amine | NCCOC=1C=CC=C2C(=CC(=NC12)C)NCC1=C(C=C(C=C1)Cl)Cl | C19H19Cl2N3O
